US05510502
2-Methylazulene was synthesized according to a method described in Japanese Patent Laid-Open Publication No. 207232/1987. Specifically, 19.5 g (0.16 mol) of tropolone was reacted with 40 g (0.21 mol) of p-toluenesulfonic acid chloride in pyridine to give 37.1 g of tosylated tropolone. Then, 20 g (0.15 mol) of dimethylmalonate was reacted with 9.7 g (0.18 mol) of NaOMe in methanol at room temperature for 4 hr to give 14.4 g of 3-methoxycarbonyl-2H-cyclohepta(b) furan-2-one (Compound (2)). Then, 12 g of Compound (2), 200 ml of acetone and 70 ml of diethylamine were added, and the mixture was heated under reflux for 30 hr. Thereafter, H2O was added thereto, and the mixture was extracted with toluene to give 39.2 g of methyl-2-methylazulene carboxylate. Further, 25 ml of phosphoric acid was added, and a reaction was allowed to proceed at 85° to 90° C. for one hr. The reaction mixture was decomposed with water, extracted with benzene and dried to give 6.5 g of 2-methylazulene as an intended product.

reactant | tropolone | 0.16 mol, 19.5 g | C1=CC=C(C(=O)C=C1)O | C7H6O2
reactant | p-toluenesulfonic acid chloride | 0.21 mol, 40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Methylazulene | CC1=CC2=CC=CC=CC2=C1 | C11H10
